US06136823
Synthesis of (S)-1-(5-amino-2,4-difluorophenyl)-8-chloro-6-fluoro-7-(2-hydroxy-n-propylamino)-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
1-(5-Amino-2,4-difluorophenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (150 mg) and (S)-1-amino-2-propanol (150 mg) were added to pyridine (450 mg), and the mixture was stirred at 55° C. for 2.5 hours. The reaction mixture was concentrated under reduced pressure. A process of adding ethanol (2 ml) to the residue and then concentrating the mixture under reduced pressure was conducted twice repeatedly. Concentrated hydrochloric acid (150 mg) was added to the resultant residue, and the mixture was concentrated under reduced pressure. Ethanol (1 ml) was added to the resultant residue, and deposits were collected by filtration and washed with ethanol and diisopropyl ether in that order to obtain the title compound (147 mg) as a colorless powder.

reactant | 1-(5-Amino-2,4-difluorophenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 150 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O)F)F | C16H7ClF4N2O3
reactant | (S)-1-amino-2-propanol | 150 mg | NC[C@H](C)O | C3H9NO
solvent | pyridine | 450 mg | N1=CC=CC=C1 | C5H5N
product | (S)-1-(5-amino-2,4-difluorophenyl)-8-chloro-6-fluoro-7-(2-hydroxy-n-propylamino)-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 147 mg | NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)Cl)NC[C@H](C)O)F)=O)C(=O)O)F)F | C19H15ClF3N3O4
